US08314119B2
3-Fluoro-5-(1H-pyrazol-1-yl)pyridine
3-Bromo-5-fluoropyridine (300 mg, 1.705 mmol), 1H-pyrazole (180 mg, 2.64 mmol), ferric acetylacetonate (181 mg, 0.511 mmol), copper(II) oxide (13.6 mg, 0.170 mmol) and cesium carbonate (1.11 g, 3.41 mmol) were suspended in DMF (2.0 mL). The reaction mixture was stirred at 90° C. for 60 hours. After cooling to room temperature, the reaction mixture was partitioned between ethyl acetate (3×30 mL) and water (100 mL). The organic layers were combined, washed with brine (50 mL) and dried (sodium sulfate). It was then concentrated and the residue was purified by silica gel flash chromatography to afford the titled compound: 1H NMR (400 MHz, methanol-D4) δ ppm 6.55-6.65 (m, 1H), 7.80 (d, J=1.2 Hz, 1H), 8.10 (dt, J=9.9, 2.3 Hz, 1H), 8.38 (d, J=2.5 Hz, 1H), 8.42 (d, J=1.5 Hz, 1H), 8.93 (s, 1H). MS (ESI) m/z=163 (M+H)+. Anal. Calcd. for C8H6FN3.0.15CH3OH; C, 61.99; H, 4.48; N, 32.42. Found: C, 62.30; H, 4.12; N, 32.21.

reactant | 3-Bromo-5-fluoropyridine | 1.705 mmol, 300 mg | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | 1H-pyrazole | 2.64 mmol, 180 mg | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 3.41 mmol, 1.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
catalyst | copper(II) oxide | 0.170 mmol, 13.6 mg | [Cu]=O
product | 3-Fluoro-5-(1H-pyrazol-1-yl)pyridine | FC=1C=NC=C(C1)N1N=CC=C1 | C8H6FN3
